US07282501B2
Step F: 3-{2-(2-tert-Butoxycarbonylamino-ethyl)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid methyl ester
To a solution of 3-[2-(2-tert-butoxycarbonylamino-ethyl)-4-hydroxy-phenyl]-propionic acid methyl ester (0.807 g, 2.50 mmol) and toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester (1.34 g, 3.74 mmol) in DMF (5 mL) was added Cs2CO3 (1.22 g, 3.74 mmol). The suspension was stirred at 65° C. for 48 h, quenched with H2O (200 mL), and extracted with EtOAc (3×100 mL). The combined organics were dried (Na2SO4) and concentrated to a residue, which was purified on silica gel chromatography (hexanes/EtOAc 9/1 to 8/2 to 6/4) to afford the title compound as a colorless oil (0.90 g, 71%). 1H NMR (400 MHz, CDCl3): δ 1.42 (s, 9H), 2.37 (s, 3H), 2.54 (t, 2H, J=7.8 Hz), 2.77 (t, 2H, J=7.8 Hz), 2.88 (t, 2H, J=6.8 Hz), 2.96 (t, 2H, J=6.8 Hz), 3.33 (˜dt, 2H, J=6.8 Hz), 3.65 (s, 3H), 4.20 (t, 2H, J=6.8 Hz), 6.70 (br s, 1H), 6.72 (d, 1H, J=8.3 Hz), 7.05 (d, 1H, J=8.3 Hz), 7.39-7.44 (m, 3H), 7.95-7.98 (m, 2H). MS (ES+) m/z [M+H]+.

reactant | 3-[2-(2-tert-butoxycarbonylamino-ethyl)-4-hydroxy-phenyl]-propionic acid methyl ester | 2.50 mmol, 0.807 g | COC(CCC1=C(C=C(C=C1)O)CCNC(=O)OC(C)(C)C)=O | C17H25NO5
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | 3.74 mmol, 1.34 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | Cs2CO3 | 3.74 mmol, 1.22 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-{2-(2-tert-Butoxycarbonylamino-ethyl)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid methyl ester | 0.90 g, 71% | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCNC(=O)OC(C)(C)C)=O | C29H36N2O6
